US04404214
0.53 g of 3-chloro-2-pyridinecarboxylic acid, 10 ml of thionyl chloride and 0.27 g of 5-aminotetrazole are treated in the same manner as described in Example 1. The crude product thus obtained is recrystallized from a mixture of dimethylformamide and ethanol, whereby 0.28 g of N-(5-tetrazolyl)-3-chloro-2-pyridinecarboxamide is obtained.

reactant | 3-chloro-2-pyridinecarboxylic acid | 0.53 g | ClC=1C(=NC=CC1)C(=O)O | C6H4ClNO2
reactant | 5-aminotetrazole | 0.27 g | NC1=NN=NN1 | CH3N5
solvent | thionyl chloride | 10 ml | S(=O)(Cl)Cl | Cl2OS
product | N-(5-tetrazolyl)-3-chloro-2-pyridinecarboxamide | 0.28 g | N1N=NN=C1NC(=O)C1=NC=CC=C1Cl | C7H5ClN6O
